US08277777B2
242 mg (corresponding to 1.0 mmol) of 2-(4′-hydroxyphenyl)-6-methoxyimidazo[1,2-a]pyridine that was sufficiently dried to remove moisture was dissolved in 10 L of N,N-dimethylformamide, and 418 mg (corresponding to 3.0 mmol) of potassium carbonate was added thereto. The mixture was supplemented with 140 μL (corresponding to 1.5 mmol) of 1-bromo-3-fluoropropane, and then was stirred at room temperature for 18 hours. After the completion of the reaction, the reaction solution was poured into water and extracted three times with chloroform. The combined chloroform layer was washed once with water and once with a saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated. The resulting crude product was purified by recycle preparative HPLC (HPLC apparatus: LC-908 (under trade name: manufactured by Japan Analytical Industry Co., Ltd.); column: two JAIGEL 2H (under trade name; manufactured by Japan Analytical Industry Co., Ltd.) connected together; mobile phase: chloroform), to obtain 189 mg (corresponding to 0.63 mmol) of 2-[4′-(3″-fluoropropoxy)phenyl]-6-methoxyimidazo[1,2-a]pyridine (hereinafter referred to as Compound 1) (FIG. 2, Step 6).

reactant | 2-(4′-hydroxyphenyl)-6-methoxyimidazo[1,2-a]pyridine | 1.0 mmol, 242 mg | OC1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)OC)C1 | C14H12N2O2
reactant | potassium carbonate | 3.0 mmol, 418 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-fluoropropane | 1.5 mmol, 140 μL | BrCCCF | C3H6BrF
reactant | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-[4′-(3″-fluoropropoxy)phenyl]-6-methoxyimidazo[1,2-a]pyridine | 0.63 mmol, 189 mg | FCCCOC1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)OC)C1 | C17H17FN2O2
